US04456757
In 100 ml of dichloromethane was dissolved 2.28 g of 5-isoquinolinesulfonyl chloride, and to the solution were added 1.38 g of anhydrous potassium carbonate and 1.46 g of n-butylamine, and the mixture thus obtained was stirred at a temperature of 20° C. to 25° C. for 12 hours. The reaction solution was washed with water, dried with anhydrous magnesium sulfate, and the dichloromethane was distilled therefrom under reduced pressure. The residue thus obtained was subjected to a silica gel column chromatography (silica gel: 70 g; solvent: chloroform) to give 1.90 g of N-n-butyl-5-isoquinolinesulfonamide, i.e., Compound (27) in a yield of 72%.

reactant | 5-isoquinolinesulfonyl chloride | 2.28 g | C1=NC=CC=2C(=CC=CC12)S(=O)(=O)Cl | C9H6ClNO2S
reactant | potassium carbonate | 1.38 g | C([O-])([O-])=O.[K+].[K+]
reactant | n-butylamine | 1.46 g | C(CCC)N | C4H11N
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | N-n-butyl-5-isoquinolinesulfonamide | 1.90 g, yield of 72% | C(CCC)NS(=O)(=O)C=1C=2C=CN=CC2C=CC1 | C13H16N2O2S
